US04760163
A solution of 50.2 g of ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate in 300 ml of absolute 1,2-dimethoxyethane is added dropwise while stirring at 20° C. during 10 minutes to a suspension of 3.6 g of sodium hydride in 100 ml of absolute 1,2-dimethoxyethane. The reaction mixture is stirred for 1 hour, treated with 21.3 g of methyl iodide and stirred for a further 2 hours. The mixture is subsequently rendered neutral with 0.5 ml of acetic acid and evaporated to dryness under reduced pressure. The residue is dissolved in 500 ml of ethyl acetate, the solution shaken three times with 250 ml of water, and the organic phase is dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is dissolved in 50 ml of hot methylene chloride, seeded, and treated with diethyl ether. There is obtained ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d] pyrimidin-3-yl)-benzoate, m.p. 141°-143° C.

reactant | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | 50.2 g | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC2=C(C1=O)CCC2)=O | C16H15ClN2O4
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | methyl iodide | 21.3 g | CI | CH3I
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dimethoxyethane | 300 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | ethyl 2-chloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d] pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C2=C(C1=O)CCC2)C)=O | C17H17ClN2O4
